US05538988
A mixture of (S)-5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine (2.05 g, 11.2 mmol), prepared as in Example 8, and dimethoxyacetaldehyde (1.73 g, 13.1 mmol) in 50 mL of ethanol was hydrogenated over 10% palladium on carbon (500 mg) for 18 hours. The mixture was filtered and concentrated by evaporation. The residue was combined with potassium thiocyanate (1.57 g, 16.2 mmol) in 30 mL of 1 N hydrochloric acid and 20 mL of ethanol and the mixture was heated at 70°-80° C. for 18 hours. The mixture was cooled in an ice bath giving a crystalline material which was isolated by filtration. Recrystallization from ethyl acetate/hexane gave 1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (1.27 g, 4.76 mmol), m.p. 250°-251° C.

reactant | (S)-5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-ylamine | 11.2 mmol, 2.05 g | FC1=C2CC[C@@H](CC2=CC(=C1)F)N | C10H11F2N
reactant | dimethoxyacetaldehyde | 13.1 mmol, 1.73 g | COC(C=O)OC | C4H8O3
reactant | potassium thiocyanate | 16.2 mmol, 1.57 g | [S-]C#N.[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | hydrochloric acid | 1 N, 30 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 4.76 mmol, 1.27 g | FC1=C2CCC(CC2=CC(=C1)F)N1C(NC=C1)=S | C13H12F2N2S
